US05098900
4-Dimethylaminomethylbenzylamine
Into a suspension of 0.95 g of lithium aluminum hydride and 100 ml of tetrahydrofuran, a solution obtained by dissolving 1.77 g of 4-dimethylaminocarbonylbenzylamine prepared in Reference Example 5 in 50 ml of tetrahydrofuran, was dropwise added under stirring, and the reaction solution was refluxed for 3 hours. After cooling, the reaction solution was cooled with ice, and ice pieces were gradually added to decompose the excessive reducing agent. Tetrahydrofuran was distilled off, and the residue thereby obtained was extracted with dichloromethane. The extract was washed with water and a saturated sodium chloride aqueous solution, and dried over sodium sulfate, and then the solvent was distilled off to obtain 1.13 g of the above identified compound as a pale yellow oily substance.

reactant | lithium aluminum hydride | 0.95 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-dimethylaminocarbonylbenzylamine | 1.77 g | CN(C(=O)C1=CC=C(CN)C=C1)C | C10H14N2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-Dimethylaminomethylbenzylamine | CN(C)CC1=CC=C(CN)C=C1 | C10H16N2
